US05498609
To a solution of 7-chloro-5-methoxycarbonylmethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.2 g) in tetrahydrofuran (15 ml) is added with stirring lithium borohydride (0.1 g) under ice-cooling, and the mixture is stirred at room temperature overnight. Water is added to the reaction solution, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-(2-hydroxyethoxy)-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.73 g) as colorless amorphous.

reactant | 7-chloro-5-methoxycarbonylmethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.2 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCC(=O)OC)C1 | C27H26ClN3O5
reactant | lithium borohydride | 0.1 g | [BH4-].[Li+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-chloro-5-(2-hydroxyethoxy)-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.73 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCCO)C1 | C26H26ClN3O4
